US04511504
(b) N[1-(R)-Carboxy-3-methylthiopropyl]-L-leucyl-O-methyl-L-tyrosine N-Methylamide
N[1-(R)-Carbomethoxy-3-methylthiopropyl]-L-leucyl-O-methyl-L-tyrosine N-methylamide (100 mg, 0.2 mM) was dissolved in MeOH (10 ml) and treated with IN NaOH (0.25 ml, 0.25 mM). After 18 h another portion of IN NaOH (0.5 ml, 0.5 mM) and H2O (2 ml) were added. After a further 18 h the reaction mixture was acidified with AcOH and evaporated in vacuo. The resulting white solid was chromatographed on C18 -Silica eluting with a gradient of 10% to 40% MeOH in H2O. The relevant fractions were pooled and evaporated in vacuo; the residue was recrystallised from hot H2O to yield the title compound (20 mg); m.p. 170-180; (Found: C,56.88; H,7.49; N,9.05; calculated for C22H35N3O5S,.0.6H2O: C,56.90; H,7.86; N,9.0 5%); νmax (Nujol) 3340, 1650 and 1625 cm-1 ; δ(d6DMSO) 0.82 (6H,t,J=7 Hz, (CH3)2CH), 1.17 and 1.5-1.9 (5H,m, CH2CH(CH3)2 and SCH2CH2), 2.04 (3H,s,CH3S), 2.3 (2H,m,--SCH2), 2.6 (3H,d,J=5 Hz, NHCH3), 2.6-2.95 (3H,m,CH2C6H4 and α--CH),), 3.14 (1H,t,J=7 Hz,α--CH), 3.7 (3H,s,OCH3), 4.25 (1H,m, --CH), 6.8 and 7.12 (2×2H, each d, each J=9 Hz,C6H4), 7.88 (1H,q,J=5 Hz, NHCH3) and 8.18 (1H,d,J=9 Hz, NHCH); m/e 454 (100%, [m+1]+).

reactant | N[1-(R)-Carbomethoxy-3-methylthiopropyl]-L-leucyl-O-methyl-L-tyrosine N-methylamide | 0.2 mM, 100 mg | CNC([C@@H](NC([C@@H](N[C@H](CCSC)C(=O)OC)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C23H37N3O5S
reactant | H2O | 2 ml | O | H2O
reactant | AcOH | CC(=O)O | C2H4O2
solvent | MeOH | 10 ml | CO | CH4O
solvent | NaOH | 0.25 mM, 0.25 ml | [OH-].[Na+]
solvent | NaOH | 0.5 mM, 0.5 ml | [OH-].[Na+]
product | N[1-(R)-Carboxy-3-methylthiopropyl]-L-leucyl-O-methyl-L-tyrosine N-Methylamide | 20 mg | CNC([C@@H](NC([C@@H](N[C@H](CCSC)C(=O)O)CC(C)C)=O)CC1=CC=C(C=C1)OC)=O | C22H35N3O5S
